US09416137B2
A mixture of Noroxymorphone (8.8 g, 30.6 mmol) in methanol (250 mL) was degassed for 20 minutes. 2-cyclobutanecarbaldehyde (7.7 g, 91.5 mmol) was added and the mixture heated at reflux for 1 hour. The reaction mixture was cooled to ambient temperature. In a separate flask formic acid (14.0 g, 306 mmol) was added slowly to a solution of triethylamine (12.4 g, 123 mmol) in methanol (40 mL). The formic acid solution was stirred for 5 minutes before being added to the solution containing Noroxymorphone along with dichloro(p-cymene)ruthenium(II) dimer (53 mg). The reaction was heated at reflux for a further 2.5 hours. The reaction was concentrated under reduced pressure then partitioned between ethyl acetate and saturated sodium bicarbonate solution. The aqueous phase was extracted with further ethyl acetate then the organic layers combined and dried (MgSO4). Filtration and removal of the solvent under reduced pressure gave (4R,4aS,7aR,12bS)-3-(cyclobutylmethyl)-4a,9-dihydroxy-2,3,4,4a,5,6-hexahydro-1H-4,12-methanobenzofuro[3,2-e]isoquinolin-7(7aH)-one (10.2 g, 94% yield); LC/MS (M+H)+=356.2.

reactant | Noroxymorphone | 30.6 mmol, 8.8 g | CN1CC[C@]23[C@@H]4C(=O)C=C[C@]2([C@H]1CC5=C3C(=C(C=C5)O)O4)O | C17H17NO4
reactant | 2-cyclobutanecarbaldehyde | 91.5 mmol, 7.7 g | C1C(CC1)C=O | C5H8O
reactant | formic acid | 306 mmol, 14.0 g | C(=O)O | CH2O2
reactant | triethylamine | 123 mmol, 12.4 g | C(C)N(CC)CC | C6H15N
solvent | methanol | 250 mL | CO | CH4O
solvent | methanol | 40 mL | CO | CH4O
catalyst | dichloro(p-cymene)ruthenium(II) dimer | 53 mg | CC1=CC=C(C=C1)C(C)C.CC1=CC=C(C=C1)C(C)C.Cl[Ru]Cl.Cl[Ru]Cl
product | (4R,4aS,7aR,12bS)-3-(cyclobutylmethyl)-4a,9-dihydroxy-2,3,4,4a,5,6-hexahydro-1H-4,12-methanobenzofuro[3,2-e]isoquinolin-7(7aH)-one | 10.2 g, 94% yield | C1(CCC1)CN1[C@H]2[C@@]3(CCC([C@H]4[C@]3(CC1)C1=C(O4)C(=CC=C1C2)O)=O)O | C21H25NO4
